US07452993B2
A mixture of [3-(3-iodo-1H-pyrazolo[3,4-b]pyridin-5-yl)-phenyl]-morpholin-4-yl-methanone (25 mg, 58 μmol), 1,1′-bis(diphenylphosphino)ferrocenepalladium(II)-dichloride dichlormethane adduct (5 mg, 6 μmol) and 1H-pyrazol-4-ylboronic acid (11 mg, 98 μmol) in acetonitrile (2 mL) and 2 M solution of sodium carbonate (1 mL) was irradiated in a Personal Chemistry Optimizer at 175° C. for 30 min. The crude reaction mixture was diluted with water (1 mL) and ethyl acetate (3 mL) and the organic phase separated, filtered and concentrated. The resulting crude mixture was then purified by mass-triggered reverse phase HPLC using a gradient of acetonitrile in water containing 0.1% of formic acid to afford morpholin-4-yl-{3-[3-(1H-pyrazol-4-yl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-methanone (6.2 mg, 29% yield) of as a colorless powder. 1H-NMR (500 MHz, d6-DMSO) δ 13.59 (s, 1H), 13.17 (s, 1H), 8.87 (d, 1H), 8.73 (d, 1H), 8.60 (s, br, 1H), 8.17 (s, br, 1H), 7.95 (ddd, 1H), 7.89 (t, 1H), (t, 1H), 7.59 (t, 1H), 7.43 (ddd, 1H), 3.80-3.35 (m, 8H). MS: m/z 397 [MNa+], 375 [MH+].

reactant | [3-(3-iodo-1H-pyrazolo[3,4-b]pyridin-5-yl)-phenyl]-morpholin-4-yl-methanone | 58 μmol, 25 mg | IC1=NNC2=NC=C(C=C21)C=2C=C(C=CC2)C(=O)N2CCOCC2 | C17H15IN4O2
reactant | 1H-pyrazol-4-ylboronic acid | 98 μmol, 11 mg | N1N=CC(=C1)B(O)O | C3H5BN2O2
reactant | sodium carbonate | 1 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
solvent | water | 1 mL | O | H2O
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | morpholin-4-yl-{3-[3-(1H-pyrazol-4-yl)-1H-pyrazolo[3,4-b]pyridin-5-yl]-phenyl}-methanone | 6.2 mg, 29% yield | N1(CCOCC1)C(=O)C1=CC(=CC=C1)C=1C=C2C(=NC1)NN=C2C=2C=NNC2 | C20H18N6O2
